US08236963B2
Intermediate 9: 5-Chloro-1H-spiro[indole-3,3′-pyrrolidine]-2,2′,5′-trione, (cf. Schemes 1, 2, 3, 4, compound V)
A stirred solution of the crude (5-chloro-3-cyano-2-oxo-2,3-dihydro-1H-indol-3-yl)-cyanoacetic acid methyl ester, intermediate 5 (53.3 g, 0.18 mol) in methanol (450 ml) was cooled in an ice-water bath and saturated with hydrogen chloride gas, keeping the temperature below 20° C. The resultant solution was left to stand at ambient temperature overnight and then heated cautiously under reflux for 5 hours to give a yellow suspension. The solvent was removed in vacuo to give a semi-solid residue, which was mixed with glacial acetic acid (375 ml) and heated under reflux, with stirring, for 16 hours. After cooling in an ice-water bath, the crude 5-chloro-1H-spiro[indole-3,3′-pyrrolidine]-2,2′,5′-trione was removed by filtration, washed with cold glacial acetic acid (100 ml) followed by water (100 ml) and then diethyl ether (100 ml) and dried in vacuo to give an off-white solid. A second crop was obtained by removing the solvent in vacuo from the combined acetic acid filtrates and repeating the purification procedure to give a total of 30.5 g (66%). Sufficiently pure by 1H NMR for subsequent reaction.

reactant | (5-chloro-3-cyano-2-oxo-2,3-dihydro-1H-indol-3-yl)-cyanoacetic acid methyl ester | COC(C(C#N)C1(C(NC2=CC=C(C=C12)Cl)=O)C#N)=O | C13H8ClN3O3
reactant | hydrogen chloride | Cl | ClH
reactant | acetic acid | 375 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 450 ml | CO | CH4O
product | 5-Chloro-1H-spiro[indole-3,3′-pyrrolidine]-2,2′,5′-trione | ClC=1C=C2C(=CC1)NC(C21C(NC(C1)=O)=O)=O | C11H7ClN2O3
